US06548526B2
3-(2,5-Difluoro-4-methyl-benzyloxy)-5-[3-(5-isopropylamino-pentyl)-ureido]-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and N1-Isopropyl-pentane-1,5-diamine by the procedure analogous to Example 6. HPLC ret. time: 3.4 minutes. 1H NMR (300 MHz, CD3OD) δ 7.20 (dd, 1H, J=5.7, 9.0 Hz), 7.06 (dd, 1H, J=6.3, 10 Hz), 5.47 (s, 2H), 3.23 (t, 2H, J=6.6 Hz), 2.93 (s, 1H, J=6.3 Hz), 2.70 (m, 2H), 2.27 (d, 3H, J=1.8 Hz), 1.7-1.5 (m, 4H), 1.5-1.3 (m, 2H), 1.11 (d, 6H, J=6.6 Hz) ppm; MS (APCl, m/z): 470 [M+H]+.

reactant | [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | N1-Isopropyl-pentane-1,5-diamine | C(C)(C)NCCCCCN | C8H20N2
product | 3-(2,5-Difluoro-4-methyl-benzyloxy)-5-[3-(5-isopropylamino-pentyl)-ureido]-isothiazole-4-carboxylic acid amide | FC1=C(COC2=NSC(=C2C(=O)N)NC(=O)NCCCCCNC(C)C)C=C(C(=C1)C)F | C21H29F2N5O3S
